US08809352B2
3-Bromo-4,5,7,8-tetrahydro-1,2,3a,6-tetraaza-azulene-6-carboxylic acid tert-butyl ester
To a suspension of 4,5,7,8-tetrahydro-1,2,3a,6-tetraaza-azulene-6-carboxylic acid tert-butyl ester (200 mg, 0.839 mmol) in water was added 10N NaOH until a clear solution was formed. Br2 (0.432 mL, 8.39 mmol) was then added slowly while maintaining a pH of 12 by addition of conc. NaOH. The reaction was stirred at ambient temperature for 16 hours. The reaction mixture was then acidified to pH ˜4 with 6 M HCl. The organics were extracted three times with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford the title compound as a white solid (185 mg, 70% yield).

reactant | 4,5,7,8-tetrahydro-1,2,3a,6-tetraaza-azulene-6-carboxylic acid tert-butyl ester | 0.839 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCN2C=NN=C2CC1 | C11H18N4O2
reactant | NaOH | 10N | [OH-].[Na+]
reactant | Br2 | 8.39 mmol, 0.432 mL | BrBr | Br2
reactant | HCl | 6 M | Cl | ClH
solvent | water | O | H2O
product | 3-Bromo-4,5,7,8-tetrahydro-1,2,3a,6-tetraaza-azulene-6-carboxylic acid tert-butyl ester | 185 mg, 70% yield | C(C)(C)(C)OC(=O)N1CCN2C(=NN=C2CC1)Br | C11H17BrN4O2
